2185-03-11 09:46:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on non-breather but feeling more comfortable
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-11**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 104 (86 - 104) bpm
   BP: 123/93(101) {111/76(84) - 132/94(102)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
             651 mL
   PO:
             TF:
   IVF:
   651 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,090 mL
   Urine:
   1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.33/44/46/24/-2
   PaO2 / FiO2: 46
   Physical Examination
   Gen: NAD, on NRB
   CV: RRR. No m.
   Res: Decreased BS b/l, scattered rhonchi
   Abd: soft, NT.
   Ext: 1+ b/l LE edema
   Labs / Radiology
   13.3 g/dL
   147 K/uL
   93 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   19 mg/dL
   106 mEq/L
   138 mEq/L
   41.3 %
   25.1 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
   WBC
   25.1
   Hct
   41.3
   Plt
   147
   Cr
   1.3
   TropT
   0.02
   TCO2
   24
   Glucose
   93
   Other labs: PT / PTT / INR:15.8/150.0/1.4, CK / CKMB /
   Troponin-T:90//0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: Continue heparin gtt
 unclear how much PEs are contributing to
   acute presentation
   -COPD: Will treat for COPD flare with pred taper, nebs, and azithro
   CHF: TTE did show systolic dysfunction but CTA not entirely consistent
   with CHF. Hold diuresis for now
   -Hypoxemia: Will wean O2 as tolerated
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Patient is critically ill.
   Total time spent:  32 minutes

2185-03-12 09:21:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, PEs, COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Less tachycardic this AM
   Feels well
   24 Hour Events:
 ULTRASOUND - At [**2185-3-11**] 10:17 AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Heparin Sodium - [**2185-3-11**] 07:01 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-12**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 88 (87 - 139) bpm
   BP: 110/69(79) {101/63(70) - 145/92(113)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 71 Inch
             Total In:
                                                                  4,020 mL
                                                                  1,172 mL
   PO:
                                                                  1,680 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,340 mL
                                                                    992 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    720 mL
   Urine:
                                                                  2,760 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,260 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   13.2 g/dL
   125 K/uL
   165 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.5 mEq/L
   16 mg/dL
   104 mEq/L
   135 mEq/L
   42.3 %
   15.2 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
   WBC
   25.1
   15.2
   Hct
   41.3
   42.3
   Plt
   147
   125
   Cr
   1.3
   1.1
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   Other labs: PT / PTT / INR:14.4/106.0/1.3, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: Continue heparin gtt.  LENIS
   -COPD: cont pred taper, nebs, and azithro
   -CHF: No diuresis for the moment
   -Hypoxemia: Will wean O2 as tolerated
   -Tachycardia/Afib: Improved with diltiazem and switch of nebs to
   Xopenex
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2185-03-13 08:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Intermittently dropped O2 sat requiring face mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-13**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 95 (88 - 122) bpm
   BP: 121/79(88) {107/69(79) - 137/91(101)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 96% on Face Mask
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,411 mL
                                                                    221 mL
   PO:
                                                                  1,080 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,331 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,150 mL
   Urine:
                                                                  1,950 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                   -929 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Labs / Radiology
   130 K/uL
   13.7 g/dL
   104 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   105 mEq/L
   138 mEq/L
   43.5 %
   26.3 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
   WBC
   25.1
   15.2
   26.3
   Hct
   41.3
   42.3
   43.5
   Plt
   147
   125
   130
   Cr
   1.3
   1.1
   1.2
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   Other labs: PT / PTT / INR:14.4/75.8/1.2, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so unlikely
   candidate for TPA or thrombectomy.
   - Continue Heparin drip, does not need IVC filter.
   - Start to bridge with coumadin today, 5mg QD. INR 1.2
   - Continue to hold anti-hypertensives, may re-start on floor.
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
   -          Solumedrol 125mg Q8h x3 days. Today is day 1 of 3
   -          Standing nebs: fluticasone and pulmicort, ipratropium q6hr
   standing
   -          On xopinex q4h PRN
   -          On azithromycin
   -          HISS while on steroids
   -          PO PPI while on steroids
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Edema on exam, but no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation. Does not look floridly fluid overloaded.
   - Hold diuresis for now in setting of PE
   - Hold re-starting beta-blockers given that he is now on Diltiazem
   which is a better rate controlling [**Doctor Last Name 23**].
   - Consider ace-i in the future
   # Atrial tachycardia: A-fib vs. multifocal atrial tachycardia. No prior
   EKG for comparison. HR
   - HR reasonably controlled currently on Diltiazem, will continue
   Diltiazem.
   - Hold beta blocker
   - F/u EKG
   - Will need telemetry on floor.
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD.
   Cardiac enzymes reassuringly flat.
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: Maybe due to poor po intake. Baseline Cr around
   1.0. Edematous on exam.
   - Urine lytes
   - Mucomyst/bicarb post CT
   - Repeat lytes in Am
   - D/c Foley today.
   # COPD: FEV1 70. Ipratropium standing and albuterol PRN. Hold spiriva
   while on ipratropium.
   - Clarify pulmicort dosing
   # Leukocytosis: Baseline WBC  25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Hold Antihypertensives as above
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   - D/c fluids today as diet advanced
   # Prophylaxis: heparin drip, PPI
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Stay in ICU today

2185-03-13 08:46:00 Physician Attending Progress Note
Chief Complaint: PEs, Hypoxemia, COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Became more hypoxemic yesterday requiring 100%NRB
   Improved this AM but not back to where he was yesterday AM.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-13**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 95 (88 - 122) bpm
   BP: 121/79(88) {107/69(79) - 137/91(101)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,411 mL
                                                                    225 mL
   PO:
                                                                  1,080 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,331 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,150 mL
   Urine:
                                                                  1,950 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                   -925 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   13.7 g/dL
   130 K/uL
   104 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   105 mEq/L
   138 mEq/L
   43.5 %
   26.3 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
   WBC
   25.1
   15.2
   26.3
   Hct
   41.3
   42.3
   43.5
   Plt
   147
   125
   130
   Cr
   1.3
   1.1
   1.2
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   Other labs: PT / PTT / INR:14.4/75.8/1.2, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   Worsening hypoxemia after initial improvement
   -PE: Continue heparin gtt.
   -COPD: had not been on steroids - start solumedrol, nebs (xopenex
   instead of albuterol), and azithro
   -CHF: No diuresis at this time
   -Hypoxemia: Will wean O2 as tolerated
   -Tachycardia/Afib: Cont dilt.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2185-03-14 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. started on solumedrol and PPI.  In the afternoon he had a 12 beat
   run of V-Tach.  EKG unchanged, completely asymptomatic with normal BP.
   Lytes checked and magnesium repleted.  Switched from diltiazem to home
   dose of atenolol/chlorthaledone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 90 (82 - 121) bpm
   BP: 121/78(88) {116/70(84) - 135/106(136)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,408 mL
                                                                    164 mL
   PO:
                                                                  1,830 mL
             TF:
   IVF:
                                                                    578 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    550 mL
   Urine:
                                                                  3,650 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,242 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   117 K/uL
   13.6 g/dL
   127 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   20 mg/dL
   102 mEq/L
   136 mEq/L
   43.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   Hct
   41.3
   42.3
   43.5
   43.1
   Plt
   147
   125
   130
   117
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   Other labs: PT / PTT / INR:14.9/88.9/1.3, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy.
   - Continue Heparin drip, does not need IVC filter.
   - Start to bridge with coumadin today, 5mg QD. INR 1.2
   - Continue to hold anti-hypertensives, may re-start on floor.
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
   -          Solumedrol 125mg Q8h x3 days. Today is day 1 of 3
   -          Standing nebs: fluticasone, ipratropium q6hr standing
   -          On xopinex q4h PRN
   -          On azithromycin
   -          HISS while on steroids
   -          PO PPI while on steroids
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Edema on exam, but no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation. Does not look floridly fluid overloaded.
   - Hold diuresis for now in setting of PE
   - Hold re-starting beta-blockers given that he is now on Diltiazem
   which is a better rate controlling [**Doctor Last Name 23**].
   - Consider ace-i in the future
   # Atrial tachycardia: A-fib vs. multifocal atrial tachycardia. No prior
   EKG for comparison. HR
   - HR reasonably controlled currently on Diltiazem, will continue
   Diltiazem.
   - Hold beta blocker
   - F/u EKG
   - Will need telemetry on floor.
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD.
   Cardiac enzymes reassuringly flat.
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: Maybe due to poor po intake. Baseline Cr around
   1.0. Edematous on exam.
   - Urine lytes
   - Mucomyst/bicarb post CT
   - Repeat lytes in Am
   - D/c Foley today.
   # COPD: FEV1 70. Ipratropium standing and albuterol PRN. Hold spiriva
   while on ipratropium.
   - Start/continue fluticasone
   # Leukocytosis: Baseline WBC  25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Hold Antihypertensives as above
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   - D/c fluids today as diet advanced
   # Prophylaxis: heparin drip, PPI
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Stay in ICU today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2185-03-14 10:02:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, COPD flare
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels that breathing is better but remains on high flow
   maskintermittently
   24 Hour Events:
   12 beat run of NSVT yesterday - b-blocker started
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Cough, No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-14**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 98 (82 - 121) bpm
   BP: 133/86(99) {118/70(84) - 135/106(136)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,408 mL
                                                                    454 mL
   PO:
                                                                  1,830 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    578 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    825 mL
   Urine:
                                                                  3,650 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,242 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg, tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   less than yesterday, Diminished: throughout, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   13.6 g/dL
   117 K/uL
   127 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   20 mg/dL
   102 mEq/L
   136 mEq/L
   43.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   Hct
   41.3
   42.3
   43.5
   43.1
   Plt
   147
   125
   130
   117
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   Other labs: PT / PTT / INR:14.9/88.9/1.3, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: Continue heparin gtt.  Coumadin started.
   -COPD: had not been on steroids - start solumedrol, nebs (xopenex
   instead of albuterol), and azithro
   -CHF: No diuresis at this time
   -Hypoxemia: Will wean O2 as tolerated
   -Tachycardia/Afib: Cont beta-blocker, dilt
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2185-03-15 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt maintaining O2 sats in high 80s low 90s. Briefly dipped to low 80s.
   Given nebs, placed on NRB, sats returned up to low 90s.  Complained of
   some CP this morning.  EKG was done.  Per pt. he occasionally gets this
   substernal, nonradiating CP with eating.  Pain resolved on its own
   within minutes.
   CXR looked a little wet, gave 10 IV lasix
   OxycoDONE (Immediate Release)  5 mg PO/NG ONCE
   Furosemide 10 mg IV ONCE Duration: 1 Doses
   Warfarin 6 mg PO/NG DAILY16
   traZODONE 50 mg PO/NG HS:PRN insomnia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-14**] 11:15 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-15**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 94 (79 - 112) bpm
   BP: 126/73(84) {107/58(73) - 133/99(102)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  1,482 mL
                                                                    138 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    522 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                  1,000 mL
   Urine:
                                                                  2,025 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen: AOX3, NAD
   HEENT: mmm
   Resp: sparse wheezes throughout, improved from yesterday, breathing
   more comfortably
   Cards: RRR, no m/r/g
   Abd: soft, nt/nd +BS
   Ext: WWP, minimal LE edema
   Labs / Radiology
   155 K/uL
   13.3 g/dL
   168 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   30 mg/dL
   98 mEq/L
   133 mEq/L
   41.8 %
   23.9 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   Plt
   147
   125
   130
   117
   155
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   168
   Other labs: PT / PTT / INR:20.9/139.4/1.9, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:9.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
                                                                [**2185-3-15**]
                                                                    01:53a
   _______________________________________________________________________
   133
                               [image004.gif]
                                     98
                               [image004.gif]
                                     30
   [image006.gif]
   168
                                                                   AGap=14
   [image007.gif]
   4.3
                               [image004.gif]
                                     25
                               [image004.gif]
                                     1.3
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 9.5 Mg: 2.3 P: 4.0
   91
                                                                  23.9
                                                            [image009.gif]
                                    13.3
   [image006.gif]
   155
                 [image010.gif]
   [image006.gif]
                                    41.8
   [image009.gif]
   PT: 20.9
   PTT: 139.4
   INR: 1.9
   Comments:
   PTT: Result Reported To [**First Name8 (NamePattern2) 11580**] [**Last Name (NamePattern1) 1077**] At 3:05am
   PTT: On [**2185-3-15**]
                                                                [**2185-3-14**]
                                                                     2:30p
   _______________________________________________________________________
   PT: 16.6
   PTT: 80.2
   INR: 1.5
                                                                [**2185-3-14**]
                                                                    08:30a
   _______________________________________________________________________
   PT: 14.9
   PTT: 95.1
   INR: 1.3
                                                                [**2185-3-14**]
                                                                    01:47a
   _______________________________________________________________________
   136
                               [image004.gif]
                                     102
                               [image004.gif]
                                     20
   [image006.gif]
   127
                                                                   AGap=13
   [image007.gif]
   4.3
                               [image004.gif]
                                     25
                               [image004.gif]
                                     1.0
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 8.9 Mg: 2.5 P: 3.4
   93
                                                                      15.9
                                                            [image009.gif]
                                    13.6
   [image006.gif]
   117
                 [image010.gif]
   [image006.gif]
                                    43.1
   [image009.gif]
   PT: 14.9
   PTT: 88.9
   INR: 1.3
   [image012.jpg]
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy.
   - Continue Heparin drip, does not need IVC filter.
   - Coumadin increased to 6.0 yesterday, INR today 1.9
   - Continue to hold anti-hypertensives, may re-start on floor.
   #Chest Pain:  pt. complained of some chest discomfort while eating, now
   resolved within minutes.  Substernal, nonradiating.  EKG showed some
   lateral T wave flattening, although lead placement may have been
   different from prior EKGs.  Unlikely
   -          Cycle cardiac enzymes
   -          Check repeat EKG this afternoon
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
   -          Solumedrol 125mg Q8h x3 days. Today is day 3 of 3
   -          Standing nebs: fluticasone, ipratropium q6hr standing
   -          On xopinex q4h PRN
   -          On azithromycin d4/5
   -          HISS while on steroids
   -          PO PPI while on steroids
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior. 1x
   10IV lasix yesterday with good results, now LOS net negative.
   - Hold further diuresis other than chlorthalidone given returning ARF
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   # Atrial tachycardia: A-fib vs. multifocal atrial tachycardia. No prior
   EKG for comparison. Had 12 beat run of V-Tach on [**3-13**].  Transitioned
   from diltiazem to betablocker.
   - Continue Atenolol 50mg daily
   - Will need telemetry on floor.
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD.
   - F/U cardiac enzymes
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: Originally presented with Cr 1.3 vs baseline 10
   likely pre-renal [**1-25**] poor PO intake, resumed to baseline with fluids,
   now back to 1.3 in setting of resent lasix and net negative balance.
   - repeat urine lytes
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Hold Antihypertensives as above
   .
   #Insomnia
   - Continue Trazodone 25 mg qHS
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   # Prophylaxis: heparin drip, coumadin, PPI
   # Access: peripherals:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Stay in ICU today

2185-03-15 11:08:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, pulmonary embolism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   chest pain this AM while eating - now resolved
   24 Hour Events:
   Has been on NRB this AM - but on shovel mask while eating
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-14**] 11:15 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-15**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 100 (79 - 112) bpm
   BP: 123/90(98) {107/58(73) - 129/99(102)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  1,482 mL
                                                                    211 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    522 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                  1,475 mL
   Urine:
                                                                  2,025 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                 -1,263 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   13.3 g/dL
   155 K/uL
   168 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   30 mg/dL
   98 mEq/L
   133 mEq/L
   41.8 %
   23.9 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   Plt
   147
   125
   130
   117
   155
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   168
   Other labs: PT / PTT / INR:20.9/92.8/1.9, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:9.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: Continue heparin gtt and COumadin.
   -COPD: cont steroid, nebs, azithro
   -CHF: No diuresis at this time
   -Hypoxemia: Still slow to wean
   -Tachycardia/Afib: Cont beta-blocker, dilt
   -chest pain: EKG with new TWI in V% but pain seems to be GI in nature
   on discription.  already anticoagulated
   -Elevasted Cr: trending up in setting of diuresis - no further lasix
   for now
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2185-03-16 07:24:00 Physician Resident Progress Note
24 Hour Events:
   Did well. O2 weaned across day. Low 90s on 65% at 7pm. Less wheezy.
   Troponins stayed flat, no more chest pain. Stayed a bit tachy,
   especially when talking to social work, but mostly in the 100s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Heparin Sodium - [**2185-3-15**] 05:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 87 (85 - 124) bpm
   BP: 126/73(87) {103/13(47) - 137/88(101)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,406 mL
                                                                     73 mL
   PO:
                                                                  2,040 mL
             TF:
   IVF:
                                                                    366 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,887 mL
                                                                    975 mL
   Urine:
                                                                  3,887 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,481 mL
                                                                   -902 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: NAD, AOX3
   HEENT:mmm
   Resp:CTAB no wheezes
   Cards:rrr no m/r/g
   Abd:soft, nt/nd, +BS, no organomegaly
   Ext: WWP, no c/c/e
   Neuro: CN II-XII intact
   Labs / Radiology
   166 K/uL
   13.3 g/dL
   168 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   30 mg/dL
   98 mEq/L
   133 mEq/L
   41.8 %
   22.7 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   22.7
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   Plt
   147
   125
   130
   117
   155
   166
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   TropT
   0.02
   0.02
   <0.01
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   168
   Other labs: PT / PTT / INR:38.3/127.7/4.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:9.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan:
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now therapeutic on Coumadin.
   - Stop Heparin drip, does not need IVC filter.
   - Coumadin increased to 6.0 yesterday, INR today 4.0
   - Would hold Coumadin today and give 5 or 6 tomorrow pending AM INR
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
   -          Solumedrol 125mg Q8h x3 days. Yesterday  was day 3 of 3
   -          d/c Solumedrol today and begin Prednisone taper. 60 mg X 2
   days and then decrease by 10 daily.
   -          Standing nebs: fluticasone, ipratropium q6hr standing
   -          On xopinex q4h PRN
   -          Completed course of azithromycin
   -          HISS while on steroids
   -          PO PPI while on steroids
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior. 1x
   10IV lasix yesterday with good results, now LOS net negative.
   - Hold further diuresis other than chlorthalidone given returning ARF
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   # Atrial tachycardia: A-fib vs. multifocal atrial tachycardia. No prior
   EKG for comparison. Had 12 beat run of V-Tach on [**3-13**].  Transitioned
   from diltiazem to betablocker.
   - Continue Atenolol 50mg daily
   - Will need telemetry on floor.
   #Chest Pain:  pt. complained of some chest discomfort while eating, now
   resolved within minutes.  Substernal, nonradiating.  EKG showed some
   lateral T wave flattening, although lead placement may have been
   different from prior EKGs.  Unlikely
   -          Pt ruled out for MI yesterday
   -          Chest pain free since yesterday AM
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD.
   - Pt [**Name (NI) **] yesterday
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: Originally presented with Cr 1.3 vs baseline 10
   likely pre-renal [**1-25**] poor PO intake, resumed to baseline with fluids,
   now back to 1.3 in setting of resent lasix and net negative balance.
   - repeat urine lytes
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Hold Antihypertensives as above
   .
   #Insomnia
   - Continue Trazodone 25 mg qHS
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   # Prophylaxis: heparin drip, coumadin, PPI
   # Access: peripherals:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Stay in ICU today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT: stopping heparin gtt, supratherapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2185-03-16 11:49:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, COPD flare
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Brathing feels comfortable
   24 Hour Events:
 EKG - At [**2185-3-15**] 09:45 AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2185-3-15**] 05:53 PM
   Other medications:
   per ICu team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-16**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 102 (85 - 124) bpm
   BP: 119/64(78) {102/13(47) - 137/82(95)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
             Total In:
                                                                  2,406 mL
                                                                    679 mL
   PO:
                                                                  2,040 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    366 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  3,887 mL
                                                                  1,305 mL
   Urine:
                                                                  3,887 mL
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,481 mL
                                                                   -626 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at bases L > R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive3
   Labs / Radiology
   13.1 g/dL
   166 K/uL
   118 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.5 mEq/L
   29 mg/dL
   98 mEq/L
   139 mEq/L
   40.7 %
   22.7 K/uL
        [image002.jpg]
                             [**2185-3-11**]  02:04 AM
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   22.7
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   40.7
   Plt
   147
   125
   130
   117
   155
   166
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   1.0
   TropT
   0.02
   0.02
   <0.01
   TCO2
   24
   Glucose
   93
   165
   104
   188
   127
   168
   118
   Other labs: PT / PTT / INR:38.3/127.7/4.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CHEST PAIN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: D/C heparin [**Last Name (un) **] and hold Coumadin for today given
   supratherapeutic INR
   -COPD: cont steroids - change to pred 60mg daily.  cont nebs.  azithro
   course completed
   -CHF: No diuresis at this time
   -Hypoxemia: O2 starting to wean back down
   -Tachycardia/Afib: Cont atenolol.  HR starting to get under betterr
   control
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2185-03-17 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did well, now on 40% FM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-17**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 89 (87 - 110) bpm
   BP: 119/73(83) {100/47(67) - 131/106(109)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
                  Total In:
                                                                  1,759 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
                                                                    720 mL
   IVF:
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    640 mL
   Urine:
                                                                  2,260 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -501 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   13.2 g/dL
   124 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.8 mEq/L
   34 mg/dL
   97 mEq/L
   134 mEq/L
   42.1 %
   23.2 K/uL
        [image002.jpg]
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
                             [**2185-3-17**]  02:18 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   22.7
   23.2
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   40.7
   42.1
   Plt
   147
   125
   130
   117
   155
   166
   150
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   1.0
   0.9
   TropT
   0.02
   0.02
   <0.01
   Glucose
   93
   165
   104
   188
   127
   168
   118
   124
   Other labs: PT / PTT / INR:38.7/40.3/4.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
                                                                [**2185-3-17**]
                                                                    02:18a
   _______________________________________________________________________
   134
                               [image004.gif]
                                     97
                               [image004.gif]
                                     34
   [image006.gif]
   124
                                                                   AGap=13
   [image007.gif]
   4.8
                               [image004.gif]
                                     29
                               [image004.gif]
                                     0.9
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 8.8 Mg: 2.0 P: 2.8
   92
                                                                      23.2
                                                            [image009.gif]
                                    13.2
   [image006.gif]
   150
                 [image010.gif]
   [image006.gif]
                                    42.1
   [image009.gif]
   PT: 38.7
   PTT: 40.3
   INR: 4.0
                                                                [**2185-3-16**]
                                                                    06:18a
   _______________________________________________________________________
   139
                               [image004.gif]
                                     98
                               [image004.gif]
                                     29
   [image006.gif]
   118
                                                                   AGap=13
   [image007.gif]
   3.5
                               [image004.gif]
                                     32
                               [image004.gif]
                                     1.0
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 8.9 Mg: 2.2 P: 3.8
   91
                                                                      22.7
                                                            [image009.gif]
                                    13.1
   [image006.gif]
   166
                 [image010.gif]
   [image006.gif]
                                    40.7
   [image009.gif]
   PT: 38.3
   PTT: 127.7
   INR: 4.0
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now therapeutic on Coumadin.
   - Stop Heparin drip, does not need IVC filter.
   - Coumadin increased to 6.0 yesterday, INR today 4.0
   - Would hold Coumadin today and give 5 or 6 tomorrow pending AM INR
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
   -          Solumedrol 125mg Q8h x3 days. Yesterday  was day 3 of 3
   -          d/c Solumedrol today and begin Prednisone taper. 60 mg X 2
   days and then decrease by 10 daily.
   -          Standing nebs: fluticasone, ipratropium q6hr standing
   -          On xopinex q4h PRN
   -          Completed course of azithromycin
   -          HISS while on steroids
   -          PO PPI while on steroids
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior. 1x
   10IV lasix yesterday with good results, now LOS net negative.
   - Hold further diuresis other than chlorthalidone given returning ARF
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   # Atrial tachycardia: A-fib vs. multifocal atrial tachycardia. No prior
   EKG for comparison. Had 12 beat run of V-Tach on [**3-13**].  Transitioned
   from diltiazem to betablocker.
   - Continue Atenolol 50mg daily
   - Will need telemetry on floor.
   #Chest Pain:  pt. complained of some chest discomfort while eating, now
   resolved within minutes.  Substernal, nonradiating.  EKG showed some
   lateral T wave flattening, although lead placement may have been
   different from prior EKGs.  Unlikely
   -          Pt ruled out for MI yesterday
   -          Chest pain free since yesterday AM
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD.
   - Pt [**Name (NI) **] yesterday
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: Originally presented with Cr 1.3 vs baseline 10
   likely pre-renal [**1-25**] poor PO intake, resumed to baseline with fluids,
   now back to 1.3 in setting of resent lasix and net negative balance.
   - repeat urine lytes
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Hold Antihypertensives as above
   .
   #Insomnia
   - Continue Trazodone 25 mg qHS
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   # Prophylaxis: heparin drip, coumadin, PPI
   # Access: peripherals:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Stay in ICU today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: likely call out today

2185-03-17 14:26:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, COPD falre
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reports breathing improved but feeling arthritis-related pain in his
   neck
   24 Hour Events:
   Weaned down to 40% face mask
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Musculoskeletal: Joint pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-17**] 02:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (87 - 113) bpm
   BP: 118/72(83) {100/47(67) - 131/106(109)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
                  Total In:
                                                                  1,759 mL
                                                                    840 mL
   PO:
                                                                    960 mL
                                                                    840 mL
   TF:
                                                                    720 mL
   IVF:
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    900 mL
   Urine:
                                                                  2,260 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -501 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered but most prominent at L base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   13.2 g/dL
   150 K/uL
   124 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.8 mEq/L
   34 mg/dL
   97 mEq/L
   134 mEq/L
   42.1 %
   23.2 K/uL
        [image002.jpg]
                             [**2185-3-11**]  04:44 AM
                             [**2185-3-11**]  10:42 AM
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
                             [**2185-3-17**]  02:18 AM
   WBC
   25.1
   15.2
   26.3
   15.9
   23.9
   22.7
   23.2
   Hct
   41.3
   42.3
   43.5
   43.1
   41.8
   40.7
   42.1
   Plt
   147
   125
   130
   117
   155
   166
   150
   Cr
   1.3
   1.1
   1.2
   1.2
   1.0
   1.3
   1.0
   0.9
   TropT
   0.02
   0.02
   <0.01
   Glucose
   93
   165
   104
   188
   127
   168
   118
   124
   Other labs: PT / PTT / INR:38.7/40.3/4.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
 CHEST PAIN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   -PE: Cont Coumadin - but holding for supratherapeutic INR
   -COPD:Cont prednisone, nebs
   -Hypoxemia: O2requirements continues to improve
   -Tachycardia/Afib: Cont atenolol.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-3-13**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2185-03-18 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt O2 requirement increased slightly when eating yesterday evening. On
   6L NC and 50% FiO2 although facemask did not really appear to be on.
   Tachy to 120s. Gave 250 cc bolus, gave nebs, increased atenolol to 75
   mg qD. Was called out initially, but then was awaiting bed for long
   time and with increased O2 requirement decided to keep Pt on the floor.
   -This AM, no chest pain, breathing feels good.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-18**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 102 (92 - 125) bpm
   BP: 116/84(88) {84/60(67) - 124/84(90)} mmHg
   RR: 19 (15 - 31) insp/min
   SpO2: 98% on 40% FM and 6L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
                  Total In:
                                                                  1,630 mL
                                                                    240 mL
   PO:
                                                                  1,380 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                  1,170 mL
   Urine:
                                                                  2,430 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb, Face tent
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General: awake, alert, appropriate
   Neck: [**Year (2 digits) 6681**] non-elevated
   CV: Irregular rhythm, slightly tachycardic to low 100s, no murmurs,
   rubs, gallops
   Lungs: Prolonged expiratory phase, bibasilar crackles improved on
   cough.
   Abdomen: soft, nontender, nondistended, + BS
   Extremities: warm and well-perfused. DP pulses present. Trace dependent
   edema.
   Labs / Radiology
   157 K/uL
   14.5 g/dL
   111 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.6 mEq/L
   36 mg/dL
   94 mEq/L
   132 mEq/L
   45.8 %
   27.6 K/uL
        [image002.jpg]
                             [**2185-3-12**]  01:00 AM
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
                             [**2185-3-17**]  02:18 AM
                             [**2185-3-17**]  10:00 PM
                             [**2185-3-18**]  05:18 AM
   WBC
   15.2
   26.3
   15.9
   23.9
   22.7
   23.2
   27.6
   Hct
   42.3
   43.5
   43.1
   41.8
   40.7
   42.1
   45.8
   Plt
   125
   130
   117
   155
   166
   150
   157
   Cr
   1.1
   1.2
   1.2
   1.0
   1.3
   1.0
   0.9
   1.1
   TropT
   <0.01
   Glucose
   165
   104
   188
   127
   168
   118
   124
   157
   111
   Other labs: PT / PTT / INR:21.4/30.8/2.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now therapeutic on Coumadin.
   - INR today 2.0 this AM, currently therapeutic
   - Check INR at noon, if subtherapeutic will consider heparin.
   - Resume Coumadin 5mg Qhs
   - Per case management, patient will likely need rehab prior to
   discharge given continued O2 requirement. PT consult requested
   # COPD exacerbation
patient sounds wheezy, likely has COPD exacerbation
   component to respiratory distress
    - Prednisone Taper: s/p 2 days on 60 mg, decrease to 50mg QD today and
   decrease by 10 daily
    - Standing nebs: fluticasone, ipratropium q6hr standing
    - on xopinex q4h PRN
    - Completed course of azithromycin
    - HISS while on steroids
    - PO PPI while on steroids
   # Tachycardia: A-fib vs. multifocal atrial tachycardia. No prior EKG
   for comparison. Atenolol dose increased to 75mg QD in setting of
   tachycardia. Tachycardia overnight may have been secondary to
   respiratory distress (as face mask was off at time), perhaps not helped
   by arthritis pain and overall deconditioning (becomes more tachycardic
   with activity).
   - Increase Atenolol to 75 mg daily
   - Will need telemetry on floor.
   # Hyponatremia
mild this AM to 132, formerly at 123 at 2:30am. Patient
   endorses thirst and somewhat dry on exam. Will likely self-correct
   - Will check PM lytes; if Na continues to be low will consider small,
   200cc fluid bolus.
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior.
   - Hold further diuresis other than chlorthalidone given returning ARF
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD. Pt
   ruled out. No chest pain
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure:  Creatinine 0.9
   - resolved
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: continue atenolol, dose increased in setting of
   tachycardia.
   #Insomnia
   - Continue Trazodone 25 mg qHS
   #Arthritis pain
   - PRN oxycodone for pain control
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   # Prophylaxis: coumadin, PPI
   # Access: peripherals:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Will likely call out today

2185-03-18 10:57:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels well this AM
   24 Hour Events:
   Stayed in the ICU due to slight increase in O2 requirement last PM
   Ongoing tachycardia to 120s-140s this AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-18**] 08:29 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-18**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 133 (92 - 134) bpm
   BP: 119/87(93) {84/60(67) - 124/87(93)} mmHg
   RR: 34 (15 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
                  Total In:
                                                                  1,630 mL
                                                                    240 mL
   PO:
                                                                  1,380 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                  1,550 mL
   Urine:
                                                                  2,430 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                 -1,310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: L base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   14.5 g/dL
   157 K/uL
   102
   1.1 mg/dL
   32 mEq/L
   4.6 mEq/L
   36 mg/dL
   94 mEq/L
   132 mEq/L
   45.8 %
   27.6 K/uL
        [image002.jpg]
                             [**2185-3-12**]  11:21 PM
                             [**2185-3-13**]  02:48 PM
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
                             [**2185-3-17**]  02:18 AM
                             [**2185-3-17**]  10:00 PM
                             [**2185-3-18**]  05:18 AM
                             [**2185-3-18**]  08:00 AM
   WBC
   26.3
   15.9
   23.9
   22.7
   23.2
   27.6
   Hct
   43.5
   43.1
   41.8
   40.7
   42.1
   45.8
   Plt
   130
   117
   155
   166
   150
   157
   Cr
   1.2
   1.2
   1.0
   1.3
   1.0
   0.9
   1.1
   TropT
   <0.01
   Glucose
   104
   188
   127
   168
   118
   124
   157
   111
   102
   Other labs: PT / PTT / INR:21.4/30.8/2.0, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
 CHEST PAIN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   68 yo man with COPD, CLL in MICU with hypoxemia, b/l distal PEs.
   Remaining in MICU for ongoing tachycardia
   -PE: Restart Coumadin - INR of 2 this AM.
   -COPD/Hypoxemia: Cont prednisone, nebs
   -Tachycardia/Afib: HR 130s this AM --> changing atenolol to metoprolol
   for easier titration
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-3-18**] 06:02 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2185-03-19 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increased beta-blocker to lower HR with some success but pressures got
   lowish. Bolused in the afternoon with good effect. Breathing well.
   Likely call out in the morning.
   This morning pt complaining of worsening dry cough.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-18**] 08:29 AM
   Coumadin (Warfarin) - [**2185-3-18**] 03:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.4
   HR: 96 (93 - 134) bpm
   BP: 101/77(82) {96/49(63) - 120/100(104)} mmHg
   RR: 16 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
                  Total In:
                                                                  1,590 mL
                                                                    240 mL
   PO:
                                                                  1,090 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,270 mL
   Urine:
                                                                  2,470 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                 -1,030 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General: awake, alert, appropriate
   Neck: [**Year (2 digits) 6681**] non-elevated
   CV: Irregular rhythm, slightly tachycardic to low 100s, no murmurs,
   rubs, gallops
   Lungs: Prolonged expiratory phase, bibasilar crackles improved on
   cough.
   Abdomen: soft, nontender, nondistended, + BS
   Extremities: warm and well-perfused. DP pulses present. Trace dependent
   edema.
   Labs / Radiology
   126 K/uL
   13.4 g/dL
   126 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.6 mEq/L
   39 mg/dL
   93 mEq/L
   131 mEq/L
   42.4 %
   27.2 K/uL
        [image002.jpg]
                             [**2185-3-14**]  01:47 AM
                             [**2185-3-15**]  01:53 AM
                             [**2185-3-15**]  09:30 AM
                             [**2185-3-16**]  06:18 AM
                             [**2185-3-17**]  02:18 AM
                             [**2185-3-17**]  10:00 PM
                             [**2185-3-18**]  05:18 AM
                             [**2185-3-18**]  08:00 AM
                             [**2185-3-18**]  02:50 PM
                             [**2185-3-19**]  02:26 AM
   WBC
   15.9
   23.9
   22.7
   23.2
   27.6
   27.2
   Hct
   43.1
   41.8
   40.7
   42.1
   45.8
   42.4
   Plt
   117
   155
   166
   150
   157
   126
   Cr
   1.0
   1.3
   1.0
   0.9
   1.1
   1.2
   1.1
   TropT
   <0.01
   Glucose
   127
   168
   118
   124
   157
   111
   102
   110
   126
   Other labs: PT / PTT / INR:16.2/30.0/1.4, CK / CKMB /
   Troponin-T:68/3/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now therapeutic on Coumadin.
   - INR today 1.4 this AM down from supra-therapeutic levels yesterday
   - Resume Coumadin 5mg QHS
   - restart heparin gtt as bridge, follow PTT
   - Per case management, patient will likely need rehab prior to
   discharge given continued O2 requirement. PT consult requested
   # COPD exacerbation: much improved. Likely has COPD exacerbation
   component to respiratory distress
    - Prednisone Taper: s/p 2 days on 60 mg, decrease to 40mg QD today and
   decrease by 10 q4d
    - Standing nebs: fluticasone, ipratropium q6hr standing
    - on xopinex q4h PRN
    - Completed course of azithromycin
    - HISS while on steroids
    - PO PPI while on steroids
   # Tachycardia: A-fib (not as likely multifocal atrial tachycardia).
   Atenolol dose increased to 75mg QD in setting of tachycardia and then
   switched to metoprolol q6h. Still tachycardic.
   - Lopressor increase from 50 QID to 75 QID. Check HR and titrate as
   necessary.
   - Will need telemetry on floor.
   # Hyponatremia
mild this AM to 131 from 132 yesterday, formerly at 123
   at 2:30am. Patient endorses thirst and somewhat dry on exam. Will
   likely self-correct.
   - check urine lytes
   - Check PM lytes
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior.
   - Resumed standing chlorthalidone dose (temporarily held in setting of
   ARF)
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD. Pt
   ruled out. No chest pain
   - FS ASA
   - Continue to monitor on telemetry
   # Acute renal failure: resolved
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: continue atenolol, dose increased in setting of
   tachycardia.
   #Insomnia
   - Continue Trazodone 25 mg qHS
   #Arthritis pain
   - PRN oxycodone for pain control
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, low regular diet
   # Prophylaxis: coumadin, PPI
   # Access: peripherals:
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: call out today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: persistent tachycardia, increased beta blocker.
   INR subtherapeutic restarted on heparin
   Tm100.5, P90-130s BP96-120/  RR14-34 95% on NC 5L
   I/O -900
   Exam: [**Last Name (un) **], S1 S2.  Bronchial BS R > L base.  No LE edema.  No clubbing,
   cyanosis.
   Labs notable for WBC 27,  Na 131<-132, INR 1.4
   CXR stable b/l effusions, patchy infiltrates.
   Meds notable for coumadin, metoprolol, flovent, prednisone 40 daily.
   68 yo man with severe emphysema, CHF, admitted with respiratory
   distress, hypoxemia, due to b/l subseg PEs and COPD flare, now.  Agree
   with plan to wean steroids slowly, continue anticoagulation, nebs.
   Afib rate better with increased beta-blocker.  Mild hyponatremia
   sending urine lytes.
   Remainder of plan as outlined above.  Stable for transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2185-3-19**] 15:21 ------

2185-03-21 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bounced back in respiratory distress. Intubated on arrival. CT scan
   obtained which shows some resolution of PE.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-20**] 12:41 PM
   Cefipime - [**2185-3-20**] 12:41 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2185-3-20**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-21**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.7
C (96.3
   HR: 92 (64 - 155) bpm
   BP: 134/82(98) {77/51(60) - 134/82(98)} mmHg
   RR: 20 (14 - 40) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
    CVP: 15 (0 - 17)mmHg
   Total In:
                                                                  1,502 mL
                                                                    179 mL
   PO:
   TF:
   IVF:
                                                                  1,502 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    557 mL
   Urine:
                                                                    875 mL
                                                                    557 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    627 mL
                                                                   -378 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,838 (1,838 - 1,838) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/47/196/28/3
   Ve: 10 L/min
   PaO2 / FiO2: 392
   Physical Examination
   Gen: Sedated, intubated
   HEENT: Opacified right cornea
   Pulm: CTAB anteriorly
   CVS: Irregularly irregular.
   ABD: Firm, hyperactive bowel sounds
   Neuro: Follows commands
   Ext: No edema
   Labs / Radiology
   143 K/uL
   14.0 g/dL
   109 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   44 mg/dL
   97 mEq/L
   136 mEq/L
   43.2 %
   44.8 K/uL
        [image002.jpg]
                             [**2185-3-18**]  02:50 PM
                             [**2185-3-19**]  02:26 AM
                             [**2185-3-20**]  10:17 AM
                             [**2185-3-20**]  11:38 AM
                             [**2185-3-20**]  12:03 PM
                             [**2185-3-20**]  01:13 PM
                             [**2185-3-20**]  03:50 PM
                             [**2185-3-20**]  06:15 PM
                             [**2185-3-21**]  03:19 AM
                             [**2185-3-21**]  04:11 AM
   WBC
   27.2
   37.9
   44.8
   Hct
   42.4
   49.7
   43.2
   Plt
   126
   129
   143
   Cr
   1.2
   1.1
   1.2
   1.3
   1.1
   TropT
   <0.01
   TCO2
   29
   29
   29
   28
   30
   Glucose
   110
   126
   112
   109
   109
   Other labs: PT / PTT / INR:25.0/126.3/2.4, CK / CKMB /
   Troponin-T:62/2/<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:52/0.7,
   Differential-Neuts:12.0 %, Band:0.0 %, Lymph:83.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now therapeutic on Coumadin.
   - INR today 2.7
   - continue Coumadin 5mg QHS
   - stop heparin gtt as INR therapeutic.
   - Per case management, patient will likely need rehab prior to
   discharge given continued O2 requirement. PT consult requested
   # Hypoxic respiratory failure  - considered HAP and COPD exacerbation
   as contributing factors.
   - continue vanc/cefepime
   - reduce midazolam sedation
   - Transition to pressure support as tolerated
   # COPD exacerbation: much improved. Likely has COPD exacerbation
   component to respiratory distress
    - Prednisone Taper: s/p 2 days on 60 mg, decrease to 40mg QD today and
   decrease by 10 q4d
    - Standing nebs: fluticasone, ipratropium q6hr standing
    - on xopinex q4h PRN
    - Completed course of azithromycin
    - HISS while on steroids
    - PO PPI while on steroids
   # Fever
   - send cultures
   - Check LFTs, Lipase
   - Send CBC with differential
   - Send C. Diff
   # Tachycardia: A-fib (not as likely multifocal atrial tachycardia).
   Atenolol dose increased to 75mg QD in setting of tachycardia and then
   switched to metoprolol q6h. Still tachycardic.
   - Lopressor  change to 75 q 8 hours. Check HR and titrate as necessary.
   - Will need telemetry on floor.
   # Hyponatremia
mild this AM to 131 from 132 yesterday, formerly at 123
   at 2:30am. Patient endorses thirst and somewhat dry on exam. Will
   likely self-correct.
   - check urine lytes
   - Check PM lytes
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior.
   - Hold chlorthalidone dose (hold all diuretics in attempt to wean from
   pressors)
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   - No Lasix for today
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD. Pt
   ruled out. No chest pain
   - Change to 81 mg  ASA
   - Continue to monitor on telemetry
   # Acute renal failure: resolved
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Currently on vasopressors.
   - continue atenolol, dose increased in setting of tachycardia.
   #Insomnia
   - Continue Trazodone 25 mg qHS
   #Arthritis pain
   - PRN oxycodone for pain control
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, Begin TFs today (hold at midnight)
   # Prophylaxis: coumadin, PPI (prevacid IV)
   # Access: peripherals, CVL
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Left IF
 [**2185-3-20**]
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2185-3-20**] 11:00 AM
   18 Gauge - [**2185-3-20**] 11:01 AM
   20 Gauge - [**2185-3-20**] 11:01 AM
   Arterial Line - [**2185-3-20**] 11:57 AM
   Multi Lumen - [**2185-3-20**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2185-03-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Elevated LFT in hepatocellular injury pattern. RUQ ultrasound ordered.
   Tolerated PS 5/5 for most of afternoon into evening, blood gases were
   7.35/51/71 from 7.39/49/75
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-21**] 08:00 PM
   Cefipime - [**2185-3-22**] 12:36 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2185-3-21**] 08:57 AM
   Lansoprazole (Prevacid) - [**2185-3-21**] 11:59 AM
   Coumadin (Warfarin) - [**2185-3-21**] 04:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-22**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 99 (86 - 100) bpm
   BP: 121/73(87) {86/56(65) - 121/73(87)} mmHg
   RR: 15 (9 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.4 kg (admission): 68.1 kg
   Height: 71 Inch
    CVP: 15 (6 - 16)mmHg
   Total In:
                                                                    831 mL
                                                                    174 mL
   PO:
   TF:
   IVF:
                                                                    711 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    480 mL
   Urine:
                                                                  1,280 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 380 (369 - 964) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 11
   PIP: 7 cmH2O
   Plateau: 20 cmH2O
   Compliance: 52.6 cmH2O/mL
   SpO2: 93%
   ABG: 7.43/46/113/29/5
   Ve: 4.6 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   12.6 g/dL
   153 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.2 mEq/L
   55 mg/dL
   99 mEq/L
   136 mEq/L
   39.2 %
   31.2 K/uL
        [image002.jpg]
                             [**2185-3-20**]  12:03 PM
                             [**2185-3-20**]  01:13 PM
                             [**2185-3-20**]  03:50 PM
                             [**2185-3-20**]  06:15 PM
                             [**2185-3-21**]  03:19 AM
                             [**2185-3-21**]  04:11 AM
                             [**2185-3-21**]  06:06 PM
                             [**2185-3-22**]  02:15 AM
                             [**2185-3-22**]  02:31 AM
                             [**2185-3-22**]  05:19 AM
   WBC
   44.8
   31.2
   Hct
   43.2
   39.2
   Plt
   143
   135
   Cr
   1.1
   1.1
   TCO2
   29
   29
   29
   28
   30
   28
   33
   32
   Glucose
   109
   153
   Other labs: PT / PTT / INR:63.8/35.9/7.3, CK / CKMB /
   Troponin-T:62/2/<0.01, ALT / AST:338/153, Alk Phos / T Bili:62/0.8,
   Amylase / Lipase:56/23, Differential-Neuts:58.5 %, Band:0.0 %,
   Lymph:40.0 %, Mono:1.5 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:3.4 g/dL, LDH:308 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now supratherapeutic on Coumadin with INR 7.3
   - INR today 7.3
   - Hold  Coumadin for now. Repeat INR in PM and consider small dose
   vitamin K at that time if more elevated.
   - Per case management, patient will likely need rehab prior to
   discharge given continued O2 requirement. PT consult requested
   # Hypoxic respiratory failure  - considered HAP and COPD exacerbation
   as contributing factors.
   - continue vanc/cefepime
   - reduce midazolam sedation
   - Patient tolerating PSV 5/5 well with RSBI 11.
   # COPD exacerbation/PNA: much improved. Likely has COPD exacerbation
   component to respiratory distress
    - Solumedrol 80mg/60mg for today
s remaining doses. Will then start
   prednisone 4mg PO daily starting tomorrow and taper
    - Standing nebs: fluticasone, ipratropium q6hr standing
    - on xopinex q4h PRN
    - Now s/p azithromycin
    - HISS while on steroids
    - PO PPI while on steroids
   # Fever
 afebrile for 24 hours.
   - f/u cultures
   - f/u C. Diff
   # Transaminitis
 LFTs found to be elevated in hepatocellular injury
   pattern.
   - will obtain RUQ u/s today
   # Tachycardia: A-fib (not as likely multifocal atrial tachycardia).
   Atenolol dose increased to 75mg QD in setting of tachycardia and then
   switched to metoprolol q6h. Still tachycardic.
   - Lopressor  change to 75 q 8 hours. Check HR and titrate as necessary.
   - Will need telemetry on floor.
   # Hyponatremia
 appears to be self correcting, today with sodium of
   136.
   - f/u urine lytes
   - Check PM lytes
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior.
   - Hold chlorthalidone dose (hold all diuretics in attempt to wean from
   pressors)
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   - No Lasix for today
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD. Pt
   ruled out. No chest pain
   - Change to 81 mg  ASA
   - Continue to monitor on telemetry
   # Acute renal failure: resolved
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Currently on vasopressors.
   - continue atenolol, dose increased in setting of tachycardia.
   #Insomnia
   - Continue Trazodone 25 mg qHS
   #Arthritis pain
   - PRN oxycodone for pain control
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, Begin TFs today (hold at midnight)
   # Prophylaxis: supratherapeutic INR, PPI (prevacid IV)
   # Access: peripherals, CVL
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Left IF
 [**2185-3-20**]
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2185-3-20**] 11:00 AM
   18 Gauge - [**2185-3-20**] 11:01 AM
   20 Gauge - [**2185-3-20**] 11:01 AM
   Arterial Line - [**2185-3-20**] 11:57 AM
   Multi Lumen - [**2185-3-20**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2185-03-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-3-22**] 09:05 AM
 ARTERIAL LINE - STOP [**2185-3-22**] 12:18 PM
   Tolerated extubation and tolerating nasal cannula.  Had tachycardia
   (atrial fibrillation with RVR) to the 110s-120s and received Metoprolol
   10mg IV x 1. Was found to have supratherapeutic INR of 12.9 and
   received 5mg Vitamin K orally.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-22**] 07:50 PM
   Cefipime - [**2185-3-23**] 12:06 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2185-3-22**] 05:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 84 (84 - 123) bpm
   BP: 110/73(81) {103/63(74) - 132/84(92)} mmHg
   RR: 13 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.6 kg (admission): 68.1 kg
   Height: 71 Inch
    CVP: 5 (5 - 18)mmHg
   Total In:
                                                                  1,189 mL
                                                                    200 mL
   PO:
                                                                    500 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    569 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    660 mL
   Urine:
                                                                  1,705 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -516 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.46/41/91/32/4
   PaO2 / FiO2: 228
   Physical Examination
   Gen: elderly gentleman in NAD, pleasant
   HEENT: Opacified right cornea
   Pulm: CTAB anteriorly
   CVS: S1, S2 Irregularly rhythm, normal rate
   ABD: Firm, hyperactive bowel sounds
   Neuro: Follows commands
   Ext: No edema
   Labs / Radiology
   159 K/uL
   12.7 g/dL
   225 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.6 mEq/L
   51 mg/dL
   97 mEq/L
   137 mEq/L
   39.3 %
   28.4 K/uL
        [image002.jpg]
                             [**2185-3-20**]  03:50 PM
                             [**2185-3-20**]  06:15 PM
                             [**2185-3-21**]  03:19 AM
                             [**2185-3-21**]  04:11 AM
                             [**2185-3-21**]  06:06 PM
                             [**2185-3-22**]  02:15 AM
                             [**2185-3-22**]  02:31 AM
                             [**2185-3-22**]  05:19 AM
                             [**2185-3-22**]  12:28 PM
                             [**2185-3-23**]  02:53 AM
   WBC
   44.8
   31.2
   28.4
   Hct
   43.2
   39.2
   39.3
   Plt
   143
   135
   159
   Cr
   1.1
   1.1
   1.0
   TCO2
   29
   28
   30
   28
   33
   32
   30
   Glucose
   109
   153
   225
   Other labs: PT / PTT / INR:42.2/38.3/4.5 (12.9), ALT / AST:338/153, Alk
   Phos / T Bili:62/0.8, Amylase / Lipase:56/23  Albumin:3.4 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   STUDIES:
   RUQ U/S:
   FINDINGS: The liver demonstrates no focal or textural abnormalities.
   The
   main portal vein is patent with appropriate hepatopetal flow. There is
   no
   intra- or extra-hepatic biliary dilatation with the common bile duct
   measuring
   up to 5 mm. The pancreas is unremarkable. The spleen is unremarkable in
   appearance, though borderline in size measuring up to 12.4 cm. The
   gallbladder is normal without evidence of cholelithiasis. Note is made
   of a
   prominent IVC, and trace amount of intra-abdominal ascites and a right
   pleural
   effusion. There is extensive atherosclerotic calcification noted within
   the
   visualized portions of the abdominal aorta with no areas of focal
   aneurysmal
   dilation. Both kidneys are unremarkable with no evidence of
   hydronephrosis,
   nephrolithiasis, or discrete masses.
   IMPRESSION:
   1. No focal or textural abnormality of the liver. Right-sided effusion,
   ascites, and prominence of the IVC suggest passive congestion as source
   of
   hepatopathy.
   2. Borderline splenomegaly with spleen measuring 12.4 cm.
   3. Note is made of extensive atherosclerotic calcification within the
   abdominal aorta.
   Assessment and Plan
   68 yo M with a past medical history of CLL, COPD, HTN presents with
   dyspnea over the last 4 months and found to have bilateral PE.
   # Hypoxic respiratory failure  - considered HAP and COPD exacerbation
   as contributing factors. Currently doing well.
   -          continue vanc/cefepime
   -          PICC placement today to complete course at rehab if needed
   # PE: Likely acute on chronic PE in the setting of CLL. TTE with signs
   of mild right heart strain. Hemodynamically stable so not candidate for
   TPA or thrombectomy. Now supratherapeutic on Coumadin with INR 4.5
   - Holding  Coumadin given supratherapeutic INR (will restart 3 mg for
   INR < 2.5)
   - Per case management, patient will likely need rehab prior to
   discharge given continued O2 requirement. PT consult requested
   - Check PM INR given vitamin K yesterday
   # COPD exacerbation/PNA: much improved. Likely has COPD exacerbation
   component to respiratory distress
    -. Steroid taper - Starting prednisone 40mg PO today (got Solumedrol
   80mg/60mg yesterday); taper over ~10 days
    - Standing nebs: fluticasone, ipratropium q6hr standing
    - on xopinex q4h PRN
    - Now s/p azithromycin
    - HISS while on steroids
 increase PRN for better glycemic control
    - PO PPI while on steroids
   # Atrial fibrillation:  Episode of rapid ventricular rate overnight
   responded to metoprolol 10mg IV. RVR may be influenced by volume
   overload/hepatic congestion.
   - continue telemetry
   - continue metoprolol 75 mg Q8 and uptitrate to goal resting heart rate
   <110 (will monitor over the course of the day)
   - supratherapeutic INR, so holding coumadin for anticoagulation
   # Transaminitis
 LFTs found to be elevated in hepatocellular injury
   pattern likely due to passive congestion
   # Fever
 afebrile for 24 hours.
   - f/u cultures
   - f/u C. Diff
   # CHF: TTE with EF 40% and right heart strain. Patient endorses
   symptoms of orthopnea, but may be related to acute PE. BNP elevated but
   no prior levels for comparison. Minimal edema on exam and no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 6681**]
   elevation however CXR appearing more fluid overloaded than prior.
   - Resume chlorthalidone
   - Continue beta-blockers at current level
   - Consider ace-i in the future
   - No Lasix for today
   # Troponin leak: Likely due to right heart strain from underlying PE.
   EKG was TWis, but no baseline to compare. No known underlying CAD. Pt
   ruled out. No chest pain
   - Change to 81 mg  ASA
   - Continue to monitor on telemetry
   # Hyponatremia
self correcting, today with sodium of 137.
   # Acute renal failure: resolved
   # Leukocytosis: Baseline WBC 25-30 in setting of CLL. Afebrile, and
   unlikely infected.
   - Trend CBC daily
   # Hypertension: Currently on vasopressors.
   -          continue atenolol, dose increased in setting of tachycardia.
   -          restart home chlorthalidone
   #Insomnia
   - Continue Trazodone 25 mg qHS
   #Arthritis pain
   - PRN oxycodone for pain control
   # Family considerations: SW c/s in Am given patient is primary
   caretaker for wife.
   # FEN: replete electrolytes, advance diet today
   # Prophylaxis: supratherapeutic INR, PPI (prevacid IV), PT consult
   today for increased activity
   # Access: peripherals, CVL (will pull today and place PICC)
   18 Gauge - [**2185-3-11**] 12:20 AM
   20 Gauge - [**2185-3-13**] 03:00 PM
   Left IF
 [**2185-3-20**]
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: plan for call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-20**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: